US04785007
Preparation of ethyl 4-cyano-3-(4-chloro-3-trifluoromethylphenyl)-2-phenylbutanoate in the form of a mixture of the erythro and threo racemates 30
20 g (0.086 mol) of 4-chloro-3-trifluoromethylcinnamonitrile dissolved in 80 cm3 of anhydrous THF are added in the course of 45 min at a temperature of between -12° C. and -15° C. The temperature is allowed to rise to -5° C. and the mixture is stirred for 1 hour 10 min before being hydrolyzed at between -5° C. and -10° C. with 50 cm3 of water and then 6N hydrochloric acid (approximately 40 cm3) to neutrality.

reactant | 4-chloro-3-trifluoromethylcinnamonitrile | 0.086 mol, 20 g | ClC1=C(C=C(C=CC#N)C=C1)C(F)(F)F | C10H5ClF3N
reactant | water | 50 cm3 | O | H2O
reactant | hydrochloric acid | 6N, approximately 40 cm3 | Cl | ClH
reactant | THF | 80 cm3 | C1CCOC1 | C4H8O
product | ethyl 4-cyano-3-(4-chloro-3-trifluoromethylphenyl)-2-phenylbutanoate | C(#N)CC(C(C(=O)OCC)C1=CC=CC=C1)C1=CC(=C(C=C1)Cl)C(F)(F)F | C20H17ClF3NO2
